US04118386
8-Chloro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester
Potassium t-butoxide, 1.29 g (0.0115 mol) was added to a stirred solution of 2.88 g (0.01 mol) of 7-chloro-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one in 50 ml of tetrahydrofuran, that had been cooled in an ice bath and covered with a nitrogen atmosphere. After stirring for 5 minutes, 2.59 g (0.015 mol) diethyl chlorophosphate was added. After stirring for 5 minutes, a mixture of 2.26 g (0.02 mol) of ethyl isocyanoacetate in 50 ml of tetrahydrofuran that had been treated with 2.24 g (0.02 mol) of potassium t-butoxide just prior to the addition, was added. After 5 minutes, the ice bath was removed and the stirring was continued for 15 minutes. The mixture was acidified with 2 ml of glacial acetic acid, diluted with 200 ml of saturated sodium bicarbonate solution and extracted twice with 125 ml portions of toluene. The extracts were dried and evaporated and the residue was crystallized from ether to give the product with mp 195°-197°. For analysis, the material was recrystallized from methylene chloride/ether/hexane to give colorless crystals with mp 195°-196°.

reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 7-chloro-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one | 0.01 mol, 2.88 g | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)F)C1 | C15H10ClFN2O
reactant | diethyl chlorophosphate | 0.015 mol, 2.59 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | ethyl isocyanoacetate | 0.02 mol, 2.26 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium t-butoxide | 0.02 mol, 2.24 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-Chloro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester | ClC=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)OCC)C3=C(C=CC=C3)F)C1 | C20H15ClFN3O2
